US05958942
3-Methyl-2-[5-(phthalimido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]inden
To a suspension of 2.03 g (10.7 mmol) of 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-thione in 50 ml of N,N-dimethylformamide were added 3.18 g (10.7 mmol) of N-(5-bromopentyl)phthalimide and 2.24 ml (16.1 mmol) of triethylamine. The mixture was stirred for two hours at 100° C. After cooling, the resulting precipitates were collected by filtration, washed with N,N-dimethylformamide, ethanol, and diethylether, successively, dried to afford 3.44 g of the desired compound (79.3%, a pale brown solid).

reactant | 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-thione | 10.7 mmol, 2.03 g | CC=1N=C2N3C1C(NC3=CC=C2)=S | C9H7N3S
reactant | N-(5-bromopentyl)phthalimide | 10.7 mmol, 3.18 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | triethylamine | 16.1 mmol, 2.24 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-2-[5-(phthalimido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]inden | 3.44 g | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCN2C(C=3C(C2=O)=CC=CC3)=O | C22H20N4O2S
